US07157447B2
4-Fluoro-2-pyrazol-1-yl-benzylamine hydrochloride.
To a solution of 4-fluoro-2-pyrazol-1-yl-benzonitrile (500 mg, 2.67 mmol) in EtOH (10 mL) and EtOAc (10 mL) was added conc-HCl (0.25 mL, 3 mmol) and 10% Pd—C (100 mg). The mixture was hydrogenated at 1 atmosphere hydrogen for 20 h. To the mixture was added additional conc-HCl (0.15 mL) and 10% Pd—C (100 mg) and the mixture was further hydrogenated for additional 20 h. The mixture was filtered over Celite, washed with EtOH, and the combined filtrate and washings were concentrated in vacuo. The residual material was triturated with EtOH to obtain 356 mg of the title compound as the hydrochloride salt as an off-white crystalline solid: HPLC rt=1.01 min. LC/MS m/z 192 (M+H); 1H NMR (DMSO-d6, 500 MHz) δ ppm 3.99 (2H, s, 7-CH2), 6.63 (1H, t, J=2 Hz, 9-CH), 7.40 (1H, dt, J=8.5, 2.5 Hz, 5-CH), 7.54 (1H, dd, J=10, 2.5 Hz, 3-CH) 7.81 (1H, dd, J=8.5, 6 Hz, 6-CH), 7.86 (1H, d, J=1.5 Hz, 10-CH) 8.35 (1H, d, J=2 Hz, 8-CH), 8.54 (3H, br.s, NH3+); 13C NMR (DMSO-d6, 125.8 Hz) δ ppm 38.8 (7-CH2), 107.7 (9-CH2), 111.6 (d, J=25 Hz, 3-CH), 114.6 (d, J=21 Hz, 5-CH), 123.7 (d, J=3 Hz, 1-C), 131.7 (8-CH), 134.0 (d, J=9 Hz, 6-CH), 140.4 (d, J=11 Hz, 2-C), 141.5 (10-CH), 161.9 (d, J=247 Hz, 6-CF); HRMS (ESI) calcd for C10H11FN3 (M+H) 192.0937. found 192.0930 (δ −3.6 ppm).

reactant | 4-fluoro-2-pyrazol-1-yl-benzonitrile | 2.67 mmol, 500 mg | FC1=CC(=C(C#N)C=C1)N1N=CC=C1 | C10H6FN3
reactant | HCl | 3 mmol, 0.25 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
reactant | HCl | 0.15 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
solvent | EtOAc | 10 mL | CCOC(=O)C | C4H8O2
catalyst | Pd—C | 100 mg | [Pd] | Pd
catalyst | Pd—C | 100 mg | [Pd] | Pd
product | 4-Fluoro-2-pyrazol-1-yl-benzylamine hydrochloride | 356 mg | Cl.FC1=CC(=C(CN)C=C1)N1N=CC=C1 | InChI=1S/C10H10FN3.ClH/c11-9-3-2-8(7-12)10(6-9)14-5-1-4-13-14;/h1-6H,7,12H2;1H
